US07838674B2
18.b: 3-Amino-3-methoxycarbonylmethyl-azetidine-1-carboxylic acid tert-butyl ester
3-Methoxycarbonylmethylene-azetidine-1-carboxylic acid tert-butyl ester (1.97 g; 8.7 mmol) in EtOH (20 ml) and liquid NH3 (11 g) are heated in a steel cylinder at 800 C for 6 hours. Evaporation of the solvent delivers the title compound as yellow resin. 1H-NMR (400 MHz; DMSO-d6): 3.81 (d, 2H); 3.65 (s, 2H); 3.60 (d, 2H); 2.86 (s, 3H); 2.07 (bs, 2H); 1.43 (s, 9H). MS (m/z) ES+: 245 (100, MH+); 189 (90).

reactant | 3-Methoxycarbonylmethylene-azetidine-1-carboxylic acid tert-butyl ester | 8.7 mmol, 1.97 g | C(C)(C)(C)OC(=O)N1CC(C1)=CC(=O)OC | C11H17NO4
reactant | NH3 | 11 g | N | H3N
solvent | EtOH | 20 ml | CCO | C2H6O
product | 3-Amino-3-methoxycarbonylmethyl-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)(CC(=O)OC)N | C11H20N2O4
